US03937824
Preparation of 1-Chloro-1-methyl-2-(N-methyl-N-cyclohexycarbamoyloxy)-2-methoxyiminoethane
N-Methoxy-α-chloropropionamide (13.8 grams; 0.1 mole), benzene (70 ml) and triethylamine (12 grams; 0.12 mole) are charged into a glass reaction flask equipped with a mechanical stirrer, thermometer and reflux condenser. N-Methyl-N-cyclohexylcarbamoyl chloride (17.9 grams; 0.1 mole) dissolved in benzene (30 ml) is incrementally added to the reaction mixture, with stirring, at room temperature. After the addition is completed the reaction mixture is heated at reflux for a period of about 3 hours. After this time the reaction mixture is distilled to remove benzene and unreacted starting material thereby yielding the desired product 1-chloro-1-methyl-2-(N-methyl-N-cyclohexylcarbamoyloxy)-2-methoxyiminoethane.

reactant | N-Methoxy-α-chloropropionamide | 0.1 mole, 13.8 grams | CONC(C(C)Cl)=O | C4H8ClNO2
reactant | triethylamine | 0.12 mole, 12 grams | C(C)N(CC)CC | C6H15N
reactant | N-Methyl-N-cyclohexylcarbamoyl chloride | 0.1 mole, 17.9 grams | CN(C(=O)Cl)C1CCCCC1 | C8H14ClNO
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 70 ml | C1=CC=CC=C1 | C6H6
product | 1-chloro-1-methyl-2-(N-methyl-N-cyclohexylcarbamoyloxy)-2-methoxyiminoethane | ClC(C(=NOC)OC(N(C1CCCCC1)C)=O)C | C12H21ClN2O3
